### PR TITLE
Add Erdős Problem 1099 (Vose's theorem on consecutive divisor ratios), link the formal proof

### LINKED ISSUE #6263: Erdős Problem 1099
### What is the Erdős problem?

https://www.erdosproblems.com/1099

Let $1=d_1<\cdots<d_{\tau(n)}=n$ be the divisors of $n$, and for $\alpha>1$ let $h_\alpha(n) = \sum_i \left( \frac{d_{i+1}}{d_i}-1\right)^\alpha$. Is it true that $\liminf_{n\to \infty}h_\alpha(n) \ll_\alpha 1$?

Status: proved (Vose, by an explicit construction). A formal proof exists in plby/lean-proofs (`Erdos1099.erdos_1099`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6263.

### What changed
Adds `FormalConjectures/ErdosProblems/1099.lean` with `h α n = ∑ (d_{i+1}/d_i - 1)^α` over consecutive divisors (via `Nat.nth (· ∣ n)`, as in `884.lean`) and:
- `erdos_1099` (`research solved`, `answer(True)`): for every `α > 1` there is `C` with `h α n ≤ C` for infinitely many `n` (Vose [Vo84]); this is the junk-free reading of "`liminf h_α(n)` is finite". Linked to plby/lean-proofs `Erdos1099.erdos_1099` (Codex and GPT-5.6 Sol; seven Mathlib-only files).
- Open variants `factorial` and `lcm` (are `h_α(n!)`, `h_α(lcm(1..n))` bounded?), and `ratio_sum` (`liminf (∑ d_{i+1}/d_i - τ(n) - log n) < ∞`).

### How checked
- Rebuilt plby's files against this repo's Mathlib: `#print axioms Erdos1099.erdos_1099` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby enumerates divisors with `Finset.orderEmbOfFin`; the bridge identifies this with `Nat.nth (· ∣ n)` via `Nat.nth_eq_orderEmbOfFin`):

<details>
<summary>Bridge</summary>

```lean
open Filter

namespace Bridge1099

/-- `Nat.nth (· ∣ n)` enumerates the divisors of `n ≠ 0` in order. -/
lemma nth_dvd_eq (n : ℕ) (hn : n ≠ 0) (i : Fin n.divisors.card) :
    Nat.nth (· ∣ n) i = Erdos1099Plby.orderedDivisor n i := by
  have hf : (Set.ofPred (· ∣ n)).Finite := by
    refine (Nat.divisors n).finite_toSet.subset fun d hd => ?_
    simpa [Nat.mem_divisors, hn] using hd
  have hset : hf.toFinset = n.divisors := by
    ext d; simp [Nat.mem_divisors, hn]
  have hi : (i : ℕ) < hf.toFinset.card := by rw [hset]; exact i.2
  rw [Nat.nth_eq_orderEmbOfFin hf hi]
  unfold Erdos1099Plby.orderedDivisor
  -- transport along `hf.toFinset = n.divisors`
  have := Finset.orderEmbOfFin_apply (s := hf.toFinset) rfl ⟨i, hi⟩
  rw [this, Finset.orderEmbOfFin_apply]
  simp only [hset]
  rfl

lemma h_eq (α : ℝ) (n : ℕ) : Erdos1099.h α n = Erdos1099Plby.hAlpha α n := by
  unfold Erdos1099.h Erdos1099Plby.hAlpha
  rcases eq_or_ne n 0 with rfl | hn
  · exact Finset.sum_congr rfl fun i _ => absurd i.2 (by simp)
  refine Finset.sum_congr rfl fun i _ => ?_
  have h1 := nth_dvd_eq n hn ⟨i.1 + 1, by omega⟩
  have h2 := nth_dvd_eq n hn ⟨i.1, by omega⟩
  simp only at h1 h2
  rw [h1, h2]
  rfl

theorem erdos_1099_bridge : type_of% Erdos1099.erdos_1099 := by
  show True ↔ _
  simp only [true_iff]
  intro α hα
  obtain ⟨C, -, hC, -⟩ := Erdos1099Plby.erdos_1099 α hα
  refine ⟨C, ?_⟩
  simpa only [h_eq] using hC

end Bridge1099
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1099»` passes.

### CODE REVIEW

**Comment by Konamiu** [comment]
Note: #5938 (stantheman0128) also formalises 1099. Differences here: the liminf is encoded as `∃ C, ∃ᶠ n, h α n ≤ C` (a real-valued `liminf ≤ C` is vacuously true when `h α n → ∞`, since `liminf` then takes the junk value `0`), and the statement is linked to plby's verified proof with a bridge. Happy to close this in favour of #5938 if the maintainers prefer, or to port the link there.

File: FormalConjectures/ErdosProblems/1099.lean [hunk 1]
```diff
@@ -0,0 +1,91 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1099.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
